US04070366
2-Methyl-4,5-diethyl-3carbethoxy-pyrrole
A solution of 612 mg of 2-methyl-3-carbethoxy-pyrrole in 10 ml of hydriodic acid, 10 ml of acetic anhydride and 2 ml of hypophosphorous acid was stirred while 0.35 ml of paraldehyde was dropped in. Stirring was contined for 1/2 h and the solution was then poured into water. For analysis, the pale yellow micro crystals which separated (0.45 g, 53%, m.p. 104°-106°) were recrystallized from aqueous ethanol. Anal Calc. for C12H19NO2 : C, 68.86; H, 9.15; N, 6.67. Found: C, 68.73; H, 9.09; N, 6.85.

reactant | 2-methyl-3-carbethoxy-pyrrole | 612 mg | CC=1NC=CC1C(=O)OCC | C8H11NO2
reactant | paraldehyde | 0.35 ml | CC1OC(OC(O1)C)C | C6H12O3
reactant | water | O | H2O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 10 ml | I | HI
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | 2-Methyl-4,5-diethyl-3carbethoxy-pyrrole | CC=1NC(=C(C1C(=O)OCC)CC)CC | C12H19NO2
